US06060473
Preparation of benzoyl phenylsulfonyl methane (32)
When the acid chloride of 4-chlorobenzoic acid, 3-methoxybenzoic acid, 3,4-methylenedioxybenzoic acid, 3,4,5-trimethoxybenzoic acid, 3-trifluoromethylbenzoic acid, 3-dimethylaminobenzoic acid, 4-methylthiobenzoic, 4-methylsulfinylbenzoic acid, 4methylsulfonylbenzoic acid, 3,5-difluorobenzoic acid, 2-naphthoic acid, 4-dimethylamino-2-naphthoic acid, 6-methoxy-2-naphthoic acid, 2-phenylpropionic acid and 2-(3,4-methylenedioxyphenyl) propionic acid are used in place of benzoyl chloride above, the corresponding substituted ketosulfones are prepared.

reactant | 4-chlorobenzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 3-methoxybenzoic acid | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | 3,4-methylenedioxybenzoic acid | C1OC=2C=C(C(=O)O)C=CC2O1 | C8H6O4
reactant | 3,4,5-trimethoxybenzoic acid | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | 3-trifluoromethylbenzoic acid | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | 3-dimethylaminobenzoic acid | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | 4-methylsulfinylbenzoic acid | CS(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O3S
reactant | 4methylsulfonylbenzoic acid | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | 3,5-difluorobenzoic acid | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
reactant | 2-naphthoic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 4-dimethylamino-2-naphthoic acid | CN(C1=CC(=CC2=CC=CC=C12)C(=O)O)C | C13H13NO2
reactant | 6-methoxy-2-naphthoic acid | COC=1C=C2C=CC(=CC2=CC1)C(=O)O | C12H10O3
reactant | 2-phenylpropionic acid | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | 2-(3,4-methylenedioxyphenyl) propionic acid | C1OC=2C=C(C=CC2O1)C(C(=O)O)C | C10H10O4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | benzoyl phenylsulfonyl methane | C(C1=CC=CC=C1)(=O)CS(=O)(=O)C1=CC=CC=C1 | C14H12O3S
